US05883099
F. (Z)-2,3-Dihydro-2-[1-[3-(2-phenoxyphenyl)-2-propenyl]-4-piperidinyl]-1H-isoindol-1-one, monohydrochloride
To a solution of Part E compound (600 mg, 2.45 mmol) in DMF (20 mL) was added Example 2 Part A compound (2-(4-piperidinyl)-2,3-dihydro-1H-isoindol-1-one) (530 mg, 2.45 mmol) followed by anhydrous potassium carbonate (372 mg, 2.69 mmol). The reaction was stirred at 55° C. overnight. The reaction was cooled to RT. Ethyl ether (200 mL) was added to dilute the reaction, and the organic layer was washed with water (2×50 mL), brine (2×50 mL) and dried over MgSO4. Evaporation gave a crude oil. Purification was performed by flash chromatography on 100 g of silica gel, loaded and eluted with 2% methanol in dichloromethane. Pure fractions were combined and evaporated to give a colorless oil. The resulting oil was dissolved in methanol (2 mL) and HCl in ethyl ether solution (1.0M, 3.0 mL, 3.0 mmol) was added. The HCl salt precipitated from the solution. The salt was filtered and dried at 60° C. under vacuum to give title compound (490 mg, 80%) as a white solid.

reactant | 2-(4-piperidinyl)-2,3-dihydro-1H-isoindol-1-one | N1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | C13H16N2O
reactant | potassium carbonate | 2.69 mmol, 372 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | HCl | Cl | ClH
reactant | ethyl ether | 3.0 mmol, 1.0M, 3.0 mL | C(C)OCC | C4H10O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | methanol | 2 mL | CO | CH4O
product | (Z)-2,3-Dihydro-2-[1-[3-(2-phenoxyphenyl)-2-propenyl]-4-piperidinyl]-1H-isoindol-1-one, monohydrochloride | 490 mg, 80% | Cl.O(C1=CC=CC=C1)C1=C(C=CC=C1)\C=C/CN1CCC(CC1)N1C(C2=CC=CC=C2C1)=O | InChI=1S/C28H28N2O2.ClH/c31-28-26-14-6-4-10-23(26)21-30(28)24-16-19-29(20-17-24)18-8-11-22-9-5-7-15-27(22)32-25-12-2-1-3-13-25;/h1-15,24H,16-21H2;1H/b11-8-;
